US07635715B2
Step F: Preparation of ethyl 4-(3-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate
A mixture of ethyl 4-(3-chloro-2-iodophenyl)-tetrahydro-2H-pyran-4-carboxylate (0.57 g, 1.4 mmol) and TEA (1.8 mL, 13 mmol) in 10 mL ACN was degassed by vacuum and back filled with nitrogen 3 times. The mixture was treated with 3,3,3-triethoxyprop-1-yne (0.37 g, 2.2 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.051 g, 0.072 mmol) and copper(I) iodide (0.028 g, 0.14 mmol) and stirred at 55° C. for 2 hours. The mixture was cooled to room temperature and concentrated. The residue was diluted with 50 mL EtOH and 10 mL water. The mixture was treated with 4-methylbenzenesulfonic acid hydrate (0.105 g, 0.551 mmol) and stirred at room temperature for 2 hours. The mixture was diluted with 100 mL EtOAc, washed with 20 mL saturated NaHCO3, dried over anhydrous Na2SO4 and concentrated. The crude product was purified by column chromatography (10-25% EtOAc/hexane) to give 0.5 g yellow oil. MS m/e: (M+H)+ 365.

reactant | ethyl 4-(3-chloro-2-iodophenyl)-tetrahydro-2H-pyran-4-carboxylate | 1.4 mmol, 0.57 g | ClC=1C(=C(C=CC1)C1(CCOCC1)C(=O)OCC)I | C14H16ClIO3
reactant | 3,3,3-triethoxyprop-1-yne | 2.2 mmol, 0.37 g | C(C)OC(C#C)(OCC)OCC | C9H16O3
reactant | 4-methylbenzenesulfonic acid hydrate | 0.551 mmol, 0.105 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | ACN | 10 mL | C(C)#N | C2H3N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.072 mmol, 0.051 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.14 mmol, 0.028 g | [Cu]I
product | ethyl 4-(3-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate | 0.5 g | ClC=1C(=C(C=CC1)C1(CCOCC1)C(=O)OCC)C#CC(=O)OCC | C19H21ClO5
